US04180395
4-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-2-buten-1-ol
To a solution of 11 grams (0.06 mole) of 3,5-dichloro-2,6-difluoropyridine in 35 milliliters of ethylene glycol was added over a 15 minute period 2.44 grams of sodium hydroxide in 35 milliliters of butenediol(2-butene-1,4-diol). The mixture was heated to ~70° C. and agitated for ~31/2 hours. Thereafter the mixture was poured into water and extracted with hot hexane. Most of the hexane was removed and upon cooling the 4-(3,5-dichloro-6-fluoro-2-pyridyloxy)-2-buten-1-ol product precipitated out. The product was recovered in a yield of 9 grams (60 percent of theoretical) and melted at 30° C. Upon analysis, the product was found to have carbon, hydrogen, chlorine and nitrogen contents of 43.3, 2.8, 27.8 and 5.6 percent, respectively, as compared with the theoretical contents of 42.9, 3.2, 28.1 and 5.6 percent, respectively, as calculated for the above named structure.

reactant | 3,5-dichloro-2,6-difluoropyridine | 0.06 mole, 11 grams | ClC=1C(=NC(=C(C1)Cl)F)F | C5HCl2F2N
reactant | sodium hydroxide | 2.44 grams | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethylene glycol | 35 milliliters | C(CO)O | C2H6O2
product | 4-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-2-buten-1-ol | ClC=1C(=NC(=C(C1)Cl)F)OCC=CCO | C9H8Cl2FNO2
